US05093370
4,4'-Bis(3-diethylaminopropyl)biphenyl
A solution of 515 mg of 4,4'-bis(3-bromopropyl)biphenyl and 0.95 g of diethylamine in 1.3 ml of ethanol was refluxed in a flask equipped with a balloon for 2 hours, cooled, and concentrated under a reduced pressure. To the concentrate was added 5% sodium bicarbonate aqueous solution, the mixture was extracted three times with 50 ml benzene. The extract was washed with 5% sodium bicarbonate aqueous solution and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, concentrated under a reduced pressure to and dried in vacuo obtain 420 mg of the title compound as a yellow oil.

reactant | 4,4'-bis(3-bromopropyl)biphenyl | 515 mg | BrCCCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCBr | C18H20Br2
reactant | diethylamine | 0.95 g | C(C)NCC | C4H11N
solvent | ethanol | 1.3 ml | C(C)O | C2H6O
product | 4,4'-Bis(3-diethylaminopropyl)biphenyl | 420 mg | C(C)N(CCCC1=CC=C(C=C1)C1=CC=C(C=C1)CCCN(CC)CC)CC | C26H40N2
